**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 High Current Flat Wire Inductor
* Matchcode:             WE-HCFA
* Library Type:          Pspice
* Version:               rev21a
* Created/modified by:   Ella
* Date and Time:         6/9/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt HCFA_2818_78436432010_1u 1 2
Rp 1 2 349.021
Cp 1 2 6.29302p
Rs 1 N3 0.0006
L1 N3 2 1.18501u
.ends HCFA_2818_78436432010_1u
*******
.subckt HCFA_2818_78436432015_1u5 1 2
Rp 1 2 366.953
Cp 1 2 7.37234p
Rs 1 N3 0.0006
L1 N3 2 1.75503u
.ends HCFA_2818_78436432015_1u5
*******
.subckt HCFA_2818_78436432033_3u3 1 2
Rp 1 2 1515.47
Cp 1 2 5.9721p
Rs 1 N3 0.0011
L1 N3 2 3.46191u
.ends HCFA_2818_78436432033_3u3
*******
.subckt HCFA_2818_78436432047_4u7 1 2
Rp 1 2 1603.08
Cp 1 2 5.91661p
Rs 1 N3 0.0011
L1 N3 2 5.19112u
.ends HCFA_2818_78436432047_4u7
*******
.subckt HCFA_2818_78436432068_6u8 1 2
Rp 1 2 1520.67
Cp 1 2 7.77659p
Rs 1 N3 0.0011
L1 N3 2 7.39696u
.ends HCFA_2818_78436432068_6u8
*******
.subckt HCFA_2818_78436432100_10u 1 2
Rp 1 2 1916.25
Cp 1 2 6.61433p
Rs 1 N3 0.0011
L1 N3 2 10.7616u
.ends HCFA_2818_78436432100_10u
*******
