**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Low Loss THT High Current Inductor
* Matchcode:             WE-HCFAT
* Library Type:          Pspice
* Version:               rev23a
* Created/modified by:   Ella
* Date and Time:         8/30/2023
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2023 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt HCFAT_3521_78437613521015_1u5 1 2
Rp 1 2 955.554
Cp 1 2 10.545p
Rs 1 N3 0.00035
L1 N3 2 1.508u
.ends HCFAT_3521_78437613521015_1u5
*******
.subckt HCFAT_3521_78437613521022_2u2 1 2
Rp 1 2 975.892
Cp 1 2 12.443p
Rs 1 N3 0.00035
L1 N3 2 2.021u
.ends HCFAT_3521_78437613521022_2u2
*******
.subckt HCFAT_3521_78437613521033_3u3 1 2
Rp 1 2 1058
Cp 1 2 13.417p
Rs 1 N3 0.00035
L1 N3 2 3.403u
.ends HCFAT_3521_78437613521033_3u3
*******
.subckt HCFAT_3521_7843763521015_1u5 1 2
Rp 1 2 596.136
Cp 1 2 11.925p
Rs 1 N3 0.00035
L1 N3 2 1.547u
.ends HCFAT_3521_7843763521015_1u5
*******
.subckt HCFAT_3521_7843763521022_2u2 1 2
Rp 1 2 603.077
Cp 1 2 12.085p
Rs 1 N3 0.00035
L1 N3 2 2.081u
.ends HCFAT_3521_7843763521022_2u2
*******
.subckt HCFAT_3521_7843763521033_3u3 1 2
Rp 1 2 671.218
Cp 1 2 15.32p
Rs 1 N3 0.00035
L1 N3 2 3.46u
.ends HCFAT_3521_7843763521033_3u3
*******
.subckt HCFAT_3540_78437613540068_6u8 1 2
Rp 1 2 4862
Cp 1 2 9.226p
Rs 1 N3 0.00101
L1 N3 2 6.597u
.ends HCFAT_3540_78437613540068_6u8
*******
.subckt HCFAT_3540_78437613540100_10u 1 2
Rp 1 2 5065
Cp 1 2 8.687p
Rs 1 N3 0.00101
L1 N3 2 9.544u
.ends HCFAT_3540_78437613540100_10u
*******
.subckt HCFAT_3540_7843763540068_6u8 1 2
Rp 1 2 3362
Cp 1 2 9.025p
Rs 1 N3 0.00101
L1 N3 2 6.744u
.ends HCFAT_3540_7843763540068_6u8
*******
.subckt HCFAT_3540_7843763540100_10u 1 2
Rp 1 2 3495
Cp 1 2 9.782p
Rs 1 N3 0.00101
L1 N3 2 9.839u
.ends HCFAT_3540_7843763540100_10u
*******
.subckt HCFAT_3540_7843763540150_15u 1 2
Rp 1 2 5612
Cp 1 2 9.024p
Rs 1 N3 0.00177
L1 N3 2 14.21u
.ends HCFAT_3540_7843763540150_15u
*******
.subckt HCFAT_3540_7843763540220_22u 1 2
Rp 1 2 9257
Cp 1 2 10.94p
Rs 1 N3 0.00263
L1 N3 2 21.056u
.ends HCFAT_3540_7843763540220_22u
*******
.subckt HCFAT_3540_7843763540330_33u 1 2
Rp 1 2 13975
Cp 1 2 9.681p
Rs 1 N3 0.00567
L1 N3 2 32.78u
.ends HCFAT_3540_7843763540330_33u
*******
.subckt HCFAT_3540_7843763540470_47u 1 2
Rp 1 2 17757
Cp 1 2 8.969p
Rs 1 N3 0.00567
L1 N3 2 47.167u
.ends HCFAT_3540_7843763540470_47u
*******
