**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 THT High Current Inductor
* Matchcode:             WE-HCIT
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/9/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt HCIT_1008_78432018003_0u3 1 2
Rp 1 2 219.039
Cp 1 2 1.359957p
Rs 1 N3 0.00044
L1 N3 2 0.1867043u
.ends HCIT_1008_78432018003_0u3
*******
.subckt HCIT_1010_78432010005_0u5 1 2
Rp 1 2 359.2803
Cp 1 2 1.323938p
Rs 1 N3 0.00088
L1 N3 2 0.2736381u
.ends HCIT_1010_78432010005_0u5
*******
